US04005150
To a solution of p-nitrophenol (2 g.) in dimethylformamide (10 ml.) is added anhydrous potassium carbonate (2 g.) and 3,7-dimethylocta-2,6-dienyl bromide (3.1 g.). The reaction is kept at 50° for 12 hours, diluted with water and extracted with ether. The ethereal extract is washed with 5% aqueous sodium hydroxide and dried over sodium sulfate. The crude product is purified by distillation to yield 3,7-dimethylocta-2,6-dienyl p-nitrophenyl ether.

reactant | p-nitrophenol | 2 g | C1=CC(=CC=C1[N+](=O)[O-])O | C6H5NO3
reactant | potassium carbonate | 2 g | C([O-])([O-])=O.[K+].[K+]
reactant | 3,7-dimethylocta-2,6-dienyl bromide | 3.1 g | CC(=CCBr)CCC=C(C)C | C10H17Br
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 3,7-dimethylocta-2,6-dienyl p-nitrophenyl ether | [N+](=O)([O-])C1=CC=C(C=C1)OCC=C(CCC=C(C)C)C | C16H21NO3
